US04026936
A suspension of 63 g. (0.24 mol) of 2-(3-nitro-4-chlorobenzoyl)pyridine in 3 liters of a saturated solution of ammonia in ethanol was autoclaved at 100° C. for 24 hrs. The mixture was concentrated in vacuo and the resulting residue dissolved in 1.5 liters of warm 5N hydrochloric acid. The solution was cooled to room temperature and neutralized with concentrated ammonium hydroxide. The resulting yellow product was collected, washed with water and dried to yield 2-(3-nitro-4-aminobenzoyl)pyridine, mp. 186° -187° C. (acetone-water).

reactant | 2-(3-nitro-4-chlorobenzoyl)pyridine | 0.24 mol | [N+](=O)([O-])C=1C=C(C(=O)C2=NC=CC=C2)C=CC1Cl | C12H7ClN2O3
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 2-(3-nitro-4-aminobenzoyl)pyridine | [N+](=O)([O-])C=1C=C(C(=O)C2=NC=CC=C2)C=CC1N | C12H9N3O3
